US06576766B1
(g) 3-Acetoxy-5-hydroxycarbonylnaphtho[2,3-c]furan-1-(3H)-one
To a solution of 3-acetoxy-5-formylnaphtho[2,3-c]furan-1(3H)-one (100 mg, 0.377 mmol) in MeCN (0.373 mL) and H2O (0.150 mL) at rt was added NaH2PO4 (15.3 mg, 0.097 mmol) followed by 50% H2O2 (0.026 mL). NaClO2 (1.0 M in H2O, 0.518 mL) was added over the course of 2 h via syringe pump. The reaction mixture was then diluted with saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated to give the title compound (87 mg, 80%).

reactant | 3-acetoxy-5-formylnaphtho[2,3-c]furan-1(3H)-one | 0.377 mmol, 100 mg | C(C)(=O)OC1C2=C(C(O1)=O)C=C1C=CC=C(C1=C2)C=O | C15H10O5
reactant | H2O2 | 0.026 mL | OO | H2O2
reactant | NaClO2 | 1.0 M, 0.518 mL | [O-]Cl=O.[Na+]
solvent | MeCN | 0.373 mL | CC#N | C2H3N
solvent | H2O | 0.150 mL | O | H2O
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-Acetoxy-5-hydroxycarbonylnaphtho[2,3-c]furan-1-(3H)-one | 87 mg, 80% | C(C)(=O)OC1C2=C(C(O1)=O)C=C1C=CC=C(C1=C2)C(=O)O | C15H10O6
